US08729068B2
To a mixture of 330 mg of 2-(trimethylsilyl)ethyl 3-{ethyl[4-(methoxycarbonyl)phenyl]sulfamoyl}benzoate and 5.0 mL of THF was added a solution of TBAF in THF (1.0 M, 1.42 mL), followed by stirring at room temperature for 15 hours. To the reaction mixture was added a 0.1 M aqueous hydrochloric acid solution, followed by extraction with ethyl acetate. The organic layer was washed with a 0.1 M aqueous hydrochloric acid solution and a 10% aqueous citric acid solution, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 238 mg of 3-{ethyl[4-(methoxycarbonyl)phenyl]sulfamoyl}benzoic acid as a white solid.

reactant | 2-(trimethylsilyl)ethyl 3-{ethyl[4-(methoxycarbonyl)phenyl]sulfamoyl}benzoate | 330 mg | C(C)N(S(=O)(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1)C1=CC=C(C=C1)C(=O)OC | C22H29NO6SSi
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | hydrochloric acid | 0.1 M | Cl | ClH
solvent | THF | 1.0 M, 1.42 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 3-{ethyl[4-(methoxycarbonyl)phenyl]sulfamoyl}benzoic acid | 238 mg | C(C)N(S(=O)(=O)C=1C=C(C(=O)O)C=CC1)C1=CC=C(C=C1)C(=O)OC | C17H17NO6S
